US06288105B1
Preparation of (S)-2-[4-[(2-Amino-3-benzyloxy-1-oxopropyl)amino]phenyl]-6-hydroxy-3-[3-methoxy-4-(1-pyrrolidinylmethyl)benzyl]benzo[b]thiophene
2-(4-Aminophenyl)-6-benzyloxy-3-[3-methoxy-4-(1-pyrrolidinylmethyl)benzyl]benzo[b]thiophene (Preparation 7; 273 mg) and N-benzyloxycarbonyl-O-benzyl-(L)-serine (184 mg) were dissolved in DMF (5.0 mL), treated with DCC (130 mg) and HOAt (88 mg) sequentially, and allowed to stir at ambient temperature under argon for 22 h. The reaction mixture was diluted with brine (30 mL), extracted with ethyl acetate (20 mL×3). The combined organic layers were dried with sodium sulfate and concentrated. Chromatography with Et3N:EtOAc (0-3%) afforded the direct coupling product. This product was dissolved in THF (5.0 mL), treated with a solution of ammonium formate (25% in H2O, 2.0 mL) and 10% palladium on carbon (100 mg) sequentially at ambient temperature. The resulting mixture was stirred at ambient temperature under argon for 45 h before it was filtered through diatomaceous earth followed by rinsing with dichloromethane and methanol. The filtrate was extracted with dichloromethane (20 mL×3) from water (30 mL). The combined organic layers were dried with sodium sulfate and concentrated under reduced pressure. Chromatography with Et3N:MeOH:EtOAc (5:10:85) followed by NH4OH:MeOH:EtOAc (5:10:85) afforded the title compound (124 mg) along with a minor amount of the completely debenzylated product (20 mg) described below in Example 2.

reactant | 2-(4-Aminophenyl)-6-benzyloxy-3-[3-methoxy-4-(1-pyrrolidinylmethyl)benzyl]benzo[b]thiophene | 273 mg | NC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)OCC2=CC=CC=C2)CC2=CC(=C(C=C2)CN2CCCC2)OC | C34H34N2O2S
reactant | N-benzyloxycarbonyl-O-benzyl-(L)-serine | 184 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H](COCC1=CC=CC=C1)C(=O)O | C18H19NO5
reactant | DCC | 130 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | HOAt | 88 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | ammonium formate | 2.0 mL | C(=O)[O-].[NH4+]
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
solvent | brine | 30 mL | [Cl-].[Na+].O
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
product | (S)-2-[4-[(2-Amino-3-benzyloxy-1-oxopropyl)amino]phenyl]-6-hydroxy-3-[3-methoxy-4-(1-pyrrolidinylmethyl)benzyl]benzo[b]thiophene | 124 mg | N[C@H](C(=O)NC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)O)CC2=CC(=C(C=C2)CN2CCCC2)OC)COCC2=CC=CC=C2 | C37H39N3O4S
